US09107916B2
B. 2-[5-[(3-chloro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3-chloro-4-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.38 (3H, s), 5.18 (2H, s), 5.73 (1H, d, J=1.6 Hz), 7.19-7.25 (2H, m), 7.41 (1H, dd, J=1.2, 4.8 Hz), 7.44 (1H, s), 7.57 (1H, d, J=1.6 Hz), 8.03 (1H, s), 8.71 (1H, d, J=5.2 Hz). [M+H] Calc'd for C17H13ClN4O, 325. Found, 325.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3-chloro-4-methylphenyl)methanol | ClC=1C=C(C=CC1C)CO | C8H9ClO
product | 2-[5-[(3-chloro-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC=1C=C(C=CC1C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C17H13ClN4O
